US08314094B2
3) Synthesis of 4-(aminomethyl)-6-bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one
6-Bromo-1-(4-methoxybenzyl)-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (1.0 g, 2.1 mmol), iron (294 mg, 5.3 mmol) and ammonium chloride (562 mg, 10.5 mmol) were stirred in methanol (5 mL) and water (5 mL) and the resulting solution was heated overnight under reflux. After the reaction solution was cooled to room temperature, methanol (10 mL) was added thereto, and the mixture was stirred at room temperature for 1 hour. After the resulting solid was removed by filtration, the mother liquid was concentrated, and the residue was washed sequentially with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure, whereby the objective compound (958 mg, quant.) was obtained as a colorless foamy solid.

reactant | 6-Bromo-1-(4-methoxybenzyl)-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 2.1 mmol, 1.0 g | BrC=1C=C2C(NC(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)(C(F)(F)F)C[N+](=O)[O-] | C18H15BrF3N3O4
reactant | ammonium chloride | 10.5 mmol, 562 mg | [Cl-].[NH4+]
reactant | water | 5 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
catalyst | iron | 5.3 mmol, 294 mg | [Fe] | Fe
solvent | methanol | 10 mL | CO | CH4O
product | 4-(aminomethyl)-6-bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | NCC1(NC(N(C2=CC=C(C=C12)Br)CC1=CC=C(C=C1)OC)=O)C(F)(F)F | C18H17BrF3N3O2
